US09163011B2
a) 3-Amino-5-vinyl-pyrazine-2-carboxylic acid methyl ester
To a mixture of 3-amino-5-chloro-pyrazine-2-carboxylic acid methyl ester (GB 1248146, 161 mg 0.86 mmol), tributyl(vinyl)tin (0.352 ml, 1.204 mmol) and lithium chloride (102 mg, 2.498 mmol) in DMF (4 ml) was added PdCl2(PPh3)2 (30.2 mg, 0.043 mmol) and the mixture was heated to 85° C. for 2.5 h. After cooling to room temperature water was added and the mixture was extracted with EtOAc, the combined organic layers were washed with water and half saturated aq. NaCl, dried with Na2SO4 and evaporated. The residue was purified by chromatography on silica gel (cyclohexane to cyclohexane/EtOAc 1:9) to provide the title compound as yellow solid.

reactant | 3-amino-5-chloro-pyrazine-2-carboxylic acid methyl ester | 0.86 mmol, 161 mg | COC(=O)C1=NC=C(N=C1N)Cl | C6H6ClN3O2
reactant | tributyl(vinyl)tin | 1.204 mmol, 0.352 ml | C(CCC)[Sn](C=C)(CCCC)CCCC
reactant | lithium chloride | 2.498 mmol, 102 mg | [Cl-].[Li+]
reactant | water | O | H2O
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.043 mmol, 30.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-Amino-5-vinyl-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1N)C=C | C8H9N3O2
